US06960598B2
Trifluoromethanesulfonic acid 2-fluoro-5-(7-trifluoromethyl[1,8]naphthyridin-4-yl)phenyl ester (30.0 mg, 0.068 mmol) was coupled to 2-tributylstannylpyrazine (50.2 mg, 0.14 mmol) as described in Example 42, affording 5-(4-fluoro-3-pyrazin-2-ylphenyl)-2-trifluoromethyl[1,8]naphthyridine (8.4 mg, 33%). δH (360 MHz, CDCl3) 7.46 (1H, dd, J 10.5 and 8.4), 7.56-7.61 (1H, m), 7.63 (1H, d, J 4.2), 7.85 (1H, d, J 8.4), 8.24 (1H, dd, J 2.3 and 7.2), 8.55 (1H, d, J 8.8), 8.60 (1H, d, J 2.5), 8.68-8.69 (1H, m), 9.23 (1H, t, J 1.9), 9.30 (1H, d, J 4.6). m/z (ES+) 371 [MH]+.

reactant | Trifluoromethanesulfonic acid 2-fluoro-5-(7-trifluoromethyl[1,8]naphthyridin-4-yl)phenyl ester | 0.068 mmol, 30.0 mg | FC1=C(C=C(C=C1)C1=CC=NC2=NC(=CC=C12)C(F)(F)F)OS(=O)(=O)C(F)(F)F | C16H7F7N2O3S
reactant | 2-tributylstannylpyrazine | 0.14 mmol, 50.2 mg | C(CCC)[Sn](C1=NC=CN=C1)(CCCC)CCCC
product | 5-(4-fluoro-3-pyrazin-2-ylphenyl)-2-trifluoromethyl[1,8]naphthyridine | 8.4 mg, 33% | FC1=C(C=C(C=C1)C1=C2C=CC(=NC2=NC=C1)C(F)(F)F)C1=NC=CN=C1 | C19H10F4N4
